US06133263
3-Benzo[1,3]dioxol-5-yl-5-(2-dimethylamino-ethoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one
To 125 mL dichloromethane was added 3-Benzo[1,3]dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one 6.06 g (11.96 mmol), giving a suspension. N,N-dimethyl-ethanolamine 4 g (44.9 mmol) was added, and the mixture was purged with anhydrous HCl gas until saturated. After an hour at room temperature, additional N,N-dimethylethanolamine 2 g (22.45 mmol) was added, followed by stirring for 48 hours at room temperature. The mixture was evaporated in vacuo and the residue was suspended in ethyl ether. The ether suspension was washed exhaustively with 4 N NaOH, followed by water and saturated sodium chloride solution. The ether phase was dried over anhydrous magnesium sulfate, filtered, and evaporated in vacuo to a crude foam, 2.86 g. The crude material was purified by chromatography on 200 g silica gel eluted with 5% methanol in chloroform. The appropriate fractions were evaporated to a glassy solid, 2.0 g. The product was identified by 1H NMR, MS [M--H]+ =578 Da.

reactant | 3-Benzo[1,3]dioxol-5-yl-5-hydroxy-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | 11.96 mmol, 6.06 g | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)O)=O | C28H26O9
reactant | N,N-dimethyl-ethanolamine | 44.9 mmol, 4 g | CN(CCO)C | C4H11NO
reactant | N,N-dimethylethanolamine | 22.45 mmol, 2 g | CN(CCO)C | C4H11NO
solvent | dichloromethane | 125 mL | ClCCl | CH2Cl2
product | 3-Benzo[1,3]dioxol-5-yl-5-(2-dimethylamino-ethoxy)-5-(4-methoxy-phenyl)-4-(3,4,5-trimethoxy-benzyl)-5H-furan-2-one | O1COC2=C1C=CC(=C2)C=2C(OC(C2CC2=CC(=C(C(=C2)OC)OC)OC)(C2=CC=C(C=C2)OC)OCCN(C)C)=O | C32H35NO9
